US04900836
(3-Amino-1H-pyrazol-4-yl)(2-furanyl)methanone
A reaction mixture comprising 19.0 g of α-[(dimethylamino)methylene]-β-oxo-2-furanepropanenitrile, 16.1 g of aminoguanidine nitrate, 250 ml of ethanol and 11.0 ml of 10N sodium hydroxide was refluxed for 6 hours and then evaporated to dryness. Water was added to the crude residue and the precipitated solid was collected, giving 17.0 g of the desired product, mp 153°-155° C.

reactant | α-[(dimethylamino)methylene]-β-oxo-2-furanepropanenitrile | 19.0 g | CN(C)C=C(C#N)C(C=1OC=CC1)=O | C10H10N2O2
reactant | aminoguanidine nitrate | 16.1 g | [N+](=O)(O)[O-].NNC(=N)N
reactant | sodium hydroxide | 10N, 11.0 ml | [OH-].[Na+]
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | (3-Amino-1H-pyrazol-4-yl)(2-furanyl)methanone | 17.0 g | NC1=NNC=C1C(=O)C=1OC=CC1 | C8H7N3O2
